US06444668B1
4-(4,4-Dicyclopropyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6yl)-thiophene-2-carbonitrile
The title compound was prepared according to Procedure B from (4,4-dicyclopropyl-1,4-dihydro-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid and 4-bromo-2-thiophene carbonitrile. A white solid: mp 244-245° C.; 1H-NMR (DMSO-d6) δ10.25 (s, 1H), 8.49 (d, 1H, J=0.87 Hz), 8.33 (s, 1H), 7.74 (d, 1H, J=1.44 Hz), 7.67 (dd, 1H, J=8.28, 1.54 Hz), 6.90 (d, 1H, J=8.28 Hz), 1.53 (m, 2H), 0.59-0.41 (m, 6H), 0.31-0.24 (m, 2H); MS (ESI) m/z 335 ([M−H]−, 100%); Anal. Calc. For C19H16N2O2S: C, 67.84, H, 4.79, N, 8.33. Found: C, 64.92, H, 4.66, N, 7.71.

reactant | (4,4-dicyclopropyl-1,4-dihydro-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid | C1(CC1)C1(OC(NC2=C1C=C(C=C2)B(O)O)=O)C2CC2 | C14H16BNO4
reactant | 4-bromo-2-thiophene carbonitrile | BrC=1C=C(SC1)C#N | C5H2BrNS
product | 4-(4,4-Dicyclopropyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6yl)-thiophene-2-carbonitrile | C1(CC1)C1(C2=C(NC(O1)=O)C=CC(=C2)C=2C=C(SC2)C#N)C2CC2 | C19H16N2O2S
